
* =====================================================
* 2-Input CMOS NAND Gate Subcircuit (PTM 45nm)
* =====================================================

* Ports: a b out vdd gnd
.subckt NAND2 a b out vdd gnd

* --- Pull-up network (PMOS in parallel) ---
Mp1 out a vdd vdd pmos L=600n W=360n
Mp2 out b vdd vdd pmos L=600n W=360n

* --- Pull-down network (NMOS in series) ---
Mn1 out a nint gnd nmos L=600n W=360n
Mn2 nint b gnd gnd nmos L=600n W=360n

.ends NAND2
 
