* =====================================================
* CMOS Inverter Subcircuit (PTM 45nm)
* =====================================================

.subckt INV in out vdd gnd
Mp out in vdd vdd pmos L=600n W=360n
Mn out in gnd gnd nmos L=600n W=180n
.ends INV

